US05110956
[{1-(6-Methyl-1,3-benzodioxol-5-yl)propyl}thio]acetic acid
2.27 g of 1-(6-methyl-1,3-benzodioxol-5-yl)-1propanol, 0.1 g of p-toluenesulfonic acid and 1.52 g of mercaptoacetic acid were dissolved in 80 ml of benzene to obtain a solution. This solution was heated under reflux for 12 hours, while removing generated water. The reaction mixture was poured into water. The aqueous layer was basified and washed with ether. The aqueous layer was acidified and extracted with chloroform. The organic layer was washed with water, dried over magnesium sulfate and concentrated in a vacuum to obtain a pale yellow solid. This solid was purified by silica gel column chromatography (ethyl acetate/hexane=2:8) to obtain 2.83 g of the title compound as a white crystal.

reactant | 1-(6-methyl-1,3-benzodioxol-5-yl)-1propanol | 2.27 g | CC=1C(=CC2=C(OCO2)C1)C(CC)O | C11H14O3
reactant | mercaptoacetic acid | 1.52 g | SCC(=O)O | C2H4O2S
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | [{1-(6-Methyl-1,3-benzodioxol-5-yl)propyl}thio]acetic acid | 2.83 g | CC=1C(=CC2=C(OCO2)C1)C(CC)SCC(=O)O | C13H16O4S
